Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Jaundiced 
 
Major Surgical or Invasive Procedure:
___ guided Liver Biopsy 
 
History of Present Illness:
___ is a ___ year old man with history of IVDA and EtOH abuse, 
as well as ___, who presented with new onset jaundice.  
 He presented to an OSH for jaundice, where he was found to have 
AST around ___ and ALT around 3000 with total bilirubin of 
11.7, INR 1.3 with an unremarkable RUQ ultrasound.  
 He states he woke up and looked in the mirror today and noticed 
his eyes were yellow. ___ endorses some nausea but denies 
vomiting or diarrhea or abdominal pain. ___ states he noted 
his urine to be dark yellow today, but no blood or changes in 
color of his stools. Denies fevers or chills. ___ states his 
last drink was 2 days ago. Currently in outpatient rehab 
program.  
 When asked about alcohol; currently he is drinking about 2 
beers a day on average last was on ___. He reported that he 
was drunk last ___ from hard liquor but not sure how much. 
He was drinking ___ pint befup until ___ years ago, when decided 
to become sober after. He does use intravenous cocaine and 
heroin, he last used about 2 months ago. He does go to an 
outpatient program for dual diagnosis.  
 He was seen by his PCP ___ ___ for a viral URI, with 
negative throat culture.  
 
 In the ED, initial vitals were: pain ___, T 98.9, HR ___, 
BP 133/73, R 18, SpO2 99%/RA  
 - Labs were notable for: markedly elevated transaminases 
(ALT/AST ___, ALP 181, total bilirubin 11.7, direct 5.4, 
negative serum & urine toxicology, including negative APAP level 
 
 - ___ was given: lorazepam, ___ gtt, and 
ondansetron  
 - RUQ ultrasound showed normal hepatic echotexture with no 
biliary dilation. Normal diameter common bile duct; decompressed 
gallbladder.  
 - Hepatology was consulted and recommended ___, 
trending LFTs as well as viral hepatitis serologies & admission 
for further workup  
 On the floor, he is diaphoretic with mild abdominal pain.  
 Review of systems:  
 (+) Per HPI  
 (-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  

 
Past Medical History:
PAST MEDICAL HISTORY:  
 # Alcohol abuse, details below  
 # Polysubstance abuse, details below  
 # Asthma  
 # Seasonal allergies  
 # ___ disorder  
 # Anxiety  

 
Social History:
___
Family History:
 FAMILY HISTORY: positive or alcohol abuse and drug addiction. 
No family history of liver disease.
 
Physical Exam:
=======================
ADMISSION PHYSICAL EXAM 
=======================
VITALS: T 98.1 BP 128/58 HR 69 R 18 SpO2 98%/RA  
GENERAL: diaphoretic, alert, oriented, no acute distress  
HEENT: sclerae icteric, moist mucous membranes, jaundiced oral 
mucosa, oropharynx clear, EOMI, PERRL  
LYMPHATICS: no cervical, clavicular, axillary or inguinal 
adenopathy; palpable 1 cm left anterior cervical node mildly 
tender, mobile  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
ABDOMEN: Soft, mild RUQ TTP, ___, bowel sounds 
present, no organomegaly, no rebound or guarding  
EXTREMITIES: Warm, well perfused, 2+ pulses, no clubbing, 
cyanosis or edema  
NEUROLOGIC: face symmetric, no asterixis, moving all extremities 
well, oriented x4  
SKIN: diaphoretic, no rashes, many tattoos  

=======================
DISCHARGE PHYSICAL EXAM
======================= 
VS: 98.1 140/73 75 18 97% RA 
I/O: ___ 2x BM
GENERAL: AOx3, NAD, jaundiced improving 
HEENT: Mild sclerae icterus, MMM, oral mucosa jaundiced, 
oropharynx clear, EOMI, PERRL  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
ABDOMEN: Soft, mild tenderness to RUQ, ___, +BS, no 
rebound or guarding  
EXTREMITIES: Warm, well perfused, 2+ pulses, no clubbing, 
cyanosis or edema  
NEUROLOGIC: AOx3, answers all questions appropriately, no 
asterixis, grossly non focal  
SKIN: No rashes, many tattoos  

 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 04:45PM   PLT ___
___ 04:45PM   ___ 
___ IM ___ 
___
___ 04:45PM   ___ 
___
___ 04:45PM   ___ 
___
___ 04:45PM   ___
___ 04:45PM   ___
___ 04:45PM   ALT(SGPT)-3232* ___ CK(CPK)-115 
ALK ___ TOT ___ DIR ___ INDIR ___
___ 04:45PM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 04:49PM   ___ ___
___ 04:54PM   ___

===============
PERTINENT LABS
===============

Copper
Test                          Result              Reference 
Range/Units
COPPER, 24 HOUR URINE         752  H              ___ mcg/24 h
      
Test                          Result              Reference 
Range/Units
TOTAL VOLUME                  800                 mL

Hepatitis Serologies
HEPATITIS C VIRAL LOAD: 20,200,000 IU/mL. 
___ 04:45PM BLOOD HCV ___ POSITIVE 
HBV DNA not detected.
HEPATITIS E ANTIBODY (IGG)    NOT DETECTED
HEPATITIS E ANTIBODY (IGM)    DETECTED  A

CMV Viral Load not detected 
EBV IgM and IgG positive 

___ 04:45PM BLOOD ___ 
___ HAV ___ IgM ___ IgM ___

Hematology
---------- 
___ 12:02AM BLOOD Ret ___ Abs ___
___ 05:02AM BLOOD ___ TH 
___
Quantitative G6PD 1.6* Reference Range: 6.0 - 12.4 U/g/Hb E 

LFTs Trend 
----------
___ 04:45PM BLOOD ___ CK(CPK)-115 
___
___ 05:02AM BLOOD ___ LD(LDH)-815* 
___
___ 05:15AM BLOOD ___ LD(LDH)-670* 
___
___ 03:40PM BLOOD ___
___ 12:02AM BLOOD ___ LD(LDH)-1060* 
___
___ 05:14AM BLOOD ___ 
___
___ 07:20PM BLOOD ___ 
___
___ 12:20AM BLOOD ___ 
___
___ 05:10AM BLOOD ___ LD(LDH)-715* 
___
___ 03:00PM BLOOD ___ 
___
___ 09:20PM BLOOD ___ 
___
___ 05:10AM BLOOD ___ 
___
___ 05:10PM BLOOD ___ 
___
___ 05:10AM BLOOD ___ LD(___)-398* 
___
___ 04:25AM BLOOD ___ LD(LDH)-371* 
___
___ 04:06AM BLOOD ___ LD(LDH)-374* 
___

Transplant Lab Work UP
___ 05:57AM BLOOD ___
___ 06:51AM BLOOD ___
___ 04:05PM BLOOD ___
___ 06:51AM BLOOD ___
___ 03:40PM BLOOD ___

Other
------
___ 05:02AM BLOOD HIV ___
___ 04:45PM BLOOD ___ 
___
HIV Viral load and Ab: Negative 

==============
DISCHARGE LABS
============== 
___ 04:40AM BLOOD ___ 
___ Plt ___
___ 04:40AM BLOOD Plt ___
___ 04:40AM BLOOD ___ 
___
___ 04:40AM BLOOD ___ LD(LDH)-344* 
___
___ 04:40AM BLOOD ___

=====
MICRO 
=====

TOXOPLASMA IgG ANTIBODY (Final ___: NEGATIVE FOR 
TOXOPLASMA IgG ANTIBODY BY EIA.
TOXOPLASMA IgM ANTIBODY (Final ___: NEGATIVE FOR 
TOXOPLASMA IgM ANTIBODY BY EIA. 
__________________________________________________________
___ IgG SEROLOGY (Final ___: POSITIVE BY EIA. 

       
__________________________________________________________
RUBELLA IgG SEROLOGY (Pending): 
__________________________________________________________

___ VIRUS ___ AB (Final ___ BY EIA. 
___ VIRUS EBNA IgG AB (Final ___: NEGATIVE BY 
EIA. 
___ VIRUS ___ AB (Final ___: POSITIVE >=1:10 
BY IFA. 
__________________________________________________________
RAPID PLASMA REAGIN TEST (Final ___: NONREACTIVE. 
      
___ Viral Load/Ultrasensitive (Final ___: ___ RNA is 
not detected. 
__________________________________________________________
HCV VIRAL LOAD (Final ___: 20,200,000 IU/mL. 
__________________________________________________________
HBV Viral Load (Final ___: HBV DNA not detected. 
__________________________________________________________
CMV Viral Load (Final ___: CMV DNA not detected. 
      
=======
STUDIES
======= 

Liver/Gallbladder Ultrasound 
1. Normal hepatic echotexture with no biliary dilation.  Normal 
diameter 
common bile duct. 
2. Decompressed gallbladder. 

TTE
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. There is no mitral valve prolapse. 
The estimated pulmonary artery systolic pressure is normal. 
There is no pericardial effusion.

CXR 
Cardiac and mediastinal contours are within normal limits.  
Lungs are well 
inflated without evidence of focal airspace consolidation, 
pleural effusions or pneumothorax.  No acute bony abnormality is 
appreciated. 

CT Abdomen with Liver Volumes 
1. 2.2 cm arterially enhancing lesion within segment 7 with no 
washout or 
pseudo capsule.  This is favored to represent a benign lesion 
such as focal nodular hyperplasia.  MRI can be used to further 
characterize this lesion. No lesions meeting OPTN criteria for 
___. 
2. No CT features of cirrhosis.  Splenomegaly measuring up to 
14.5 cm. 
3. Bilateral simple renal cysts. 
4. Variant visceral arterial anatomy including a replaced right 
hepatic artery from the SMA and replaced left hepatic artery 
from the left gastric artery. 
5. Two right renal arteries.  The superior right renal artery is 
close to the level of the origin of the SMA. 
6. Total liver volume 2,611 cc. 
7. Total splenic volume 767 cc. 

 
Brief Hospital Course:
___ is a ___ year old man with history of IVDA and EtOH abuse, 
as well as Pervasive developmental disorder, obsessive 
compulsive disorder, & asthma, who presented with new onset 
jaundice with labs consistent severe hepatitis.  

ACTIVE ISSUES 
=============

# Acute Hepatitis. Admission MELD 9. LFTs peaked on admission 
(ALT 3000s, AST 2000s) and downtrended. Total Billirubin 
continued to rise to a peak of 75, which prohibited calculation 
of MELD score given value above calculator limit. Highest 
suspicion was for acute viral infection, in the setting of IVD 
use. He adamantly denied any drug use aside from mari___ in 
the 2 months prior to hospitalization but did endorse sharing 
needles ___ months ago with IV Heroin and IV cocaine. This 
admission, he was never altered or encephalopathic. He never 
displayed asterixis. Admission liver/gallbladder ultrasound was 
unremarkable. Further work up included liver biopsy which 
revealed markedly active hepatitis (ddx ___, viral or 
autoimmune etiology) with features most suggestive of drug 
induced. Labs were significant for Hepatitis C, with viral load 
>20 million and Hepatitis E IgM positive. He had elevated copper 
in his urine over 24 hours and positive KF rings on slit lamp 
ophthalmology examination suggestive of the diagnosis of 
Wilsons. Copper quantification of liver biopsy was pending at 
the time of discharge. He was initiated on treatment for ___ 
with Trientine and educated on a low copper diet. His siblings 
were advised to undergo genetic testing.  

He also underwent full transplant work up should this be 
necessary in the future. He was presented at the weekly liver 
transplant conference. He will follow up in the ___ 
with Dr. ___.  

# Anemia. His H/H downtrended from admission 13.1/39.6 to 
8.1/24.9 over several days without evidence of GIB. Highest 
suspicion was for level of hemolysis in setting of acute liver 
damage given Haptoglobin <5 and Reticulocyte index 2.7. Direct 
coombs was negative, consistent with coombs negative hemolytic 
anemia which can be seen in the setting of Wilsons disease. 
After discharge, it was noted that his G6PD level was low.     

# Pervasive developmental disorder, obsessive compulsive 
disorder, polysubstance use. He tried to leave AMA during 
admission. Psychiatry was consulted and the ___ was able to 
be convinced to stay given necessity of medical treatment. He 
did not require any ___ medication. Home lorazepam 
was discontinued in the setting of his liver disease and he was 
started on Haldol prn. ___ disease can manifest with a 
variety of neuropsychiatric disorders, which raises the question 
if his presenting neuropsych disorders are related to his 
possible diagnosis of Wilsons. He met with the transplant social 
worker ___ and ___ follow up with ___ 
in ___ for further treatment. He adamantly expressed his 
desire to abstain from further drug and alcohol use moving 
forward.     

CHRONIC ISSUES
==============  
# ANXIETY. Initially continued on admission but discontinued in 
the setting of worsening liver function tests. Started on Haldol 
prn with psychiatric follow up.  

TRANSITIONAL ISSUES 
===================
- Started Trientine 750mg BID 
- Hep C positive, VL >20million; genotype 1a A
- Rubella IgG pending at discharge
- F/u Copper quantification in liver biopsy, pending at the time 
of discharge
- F/u in Liver Clinic with Dr. ___ 
- ___ to call ___ to initiate 
psychiatric/drug treatment program; ___
- Continue with low copper diet 
- Recommend family members get genetic testing for Wilsons 
disease 
- On CT scan there was a 2.2 cm arterially enhancing lesion 
within segment 7 with no washout or pseudo capsule. This is 
favored to represent a benign lesion such as focal nodular 
hyperplasia. MRI could be used to further characterize this 
lesion. 
- Uptrending AP on the day of discharge; recommend f/u with 
outpatient labs and MRCP if indicated. 

PCP
- ___ up with ophthalmology for macular irregularities noted 
on slit lamp exam 
- Follow up with repeat G6PD as an outpatient  

# CODE: FULL 
# CONTACT: mother, ___, ___

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Cetirizine 10 mg PO DAILY 
2. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
3. HydrOXYzine 50 mg PO QHS 
4. Albuterol Inhaler 2 PUFF IH BID 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH BID 
2. Cetirizine 10 mg PO DAILY 
3. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
4. HydrOXYzine 50 mg PO QHS 
5. trientine 750 mg oral BID 
6. Haloperidol 0.5 mg PO BID:PRN anxiety 
RX *haloperidol 0.5 mg one tablet(s) by mouth BID prn Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute hepatitis 
Wilsons disease 
Hepatitis C infection 
Hepatitis E IgM positive 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

It was a pleasure taking care of you during your 
hospitalization. Briefly, you were hospitalized with jaundice 
and your liver function tests (LFTs) and bilirubin were 
elevated. We performed many lab tests and studies and found that 
you have Hepatitis C and most likely a condition called ___ 
___, which causes a build up of copper in your liver and 
body. Your liver function tests improved. You underwent standard 
testing to prepare for a liver transplant should this become 
necessary at some point in the future. You were started on a new 
medication called Trientine to help bind the copper in your body 
and excrete it through your urine. You will follow up with Dr. 
___ in his clinic as an outpatient. In addition, please 
contact the ___ in ___ for further 
treatment.

We wish you the best, 

Your ___ Treatment Team  
 
Followup Instructions:
___